US04242121
5-Chloro-2-(2'-methylphenoxy)benzaldehyde
5-Chloro-2-(2'-methylphenoxy)benzoyl chloride (5.0 g) was dissolved in toluene (50 mls) and the catalyst poison (0.7 mls) followed by the catalyst (0.7 g; 5% palladium on barium carbonate) were added. Hydrogen was then bubbled through the stirred mixture at 100° until no more hydrogen chloride was evolved. The mixture was then cooled to 40°. Animal charcoal (0.2 g) was added and the mixture was filtered through kieselguhr. Evaporation of the solvent from the filtrate gave an oil which was purified by distillation under reduced pressure to give the title compound as a low melting point solid (mp 45°-46°).

reactant | 5-Chloro-2-(2'-methylphenoxy)benzoyl chloride | 5.0 g | ClC=1C=CC(=C(C(=O)Cl)C1)OC1=C(C=CC=C1)C | C14H10Cl2O2
solvent | toluene | 50 mls | C1(=CC=CC=C1)C | C7H8
catalyst | palladium on barium carbonate | [Pd] | Pd
product | 5-Chloro-2-(2'-methylphenoxy)benzaldehyde | ClC=1C=CC(=C(C=O)C1)OC1=C(C=CC=C1)C | C14H11ClO2
